US07132428B2
b) 5-(2,4-Difluorophenyl)-3-methyl-1H-pyrazolo[4,3-c]isoquinoline (Y)
The preparation took place in analogy to example 33 (B) using 233 mg of 2,4-difluoro-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide, except the reaction mixture was heated for 4 h after addition of SnCl4, and addition of water gave a tan precipitate. This material was triturated with hot methanol to give a solid that was further triturated with dichloromethane and methanol to give the title compound as a white solid.

reactant | 2,4-difluoro-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide | 233 mg | FC1=C(C(=O)NC=2C(=NNC2C2=CC=CC=C2)C)C=CC(=C1)F | C17H13F2N3O
reactant | SnCl4 | Cl[Sn](Cl)(Cl)Cl
solvent | water | O | H2O
product | 5-(2,4-Difluorophenyl)-3-methyl-1H-pyrazolo[4,3-c]isoquinoline | FC1=C(C=CC(=C1)F)C1=NC2=C(C=3C=CC=CC13)NN=C2C | C17H11F2N3
